US06225320B1
2-Bromo-3-methoxy-6aminopyridine
2-Bromo-3-methoxy-6-nitropyridine (Desc. 5; 9.0 g, 38.6 mmol) and platinum (IV) oxide hydrate (250 mg) in ethyl acetate (250 ml) was hydrogenated at 20 psi hydrogen for 1 hour. The catalyst was removed by filtration and the filtrate concentrated to give the product as a yellow solid (7.73 g, 38.1 mmol, 99% yield).

reactant | 2-Bromo-3-methoxy-6-nitropyridine | 38.6 mmol, 9.0 g | BrC1=NC(=CC=C1OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum (IV) oxide hydrate | 250 mg | O.[Pt](=O)=O
product | 2-Bromo-3-methoxy-6aminopyridine | 38.1 mmol, 7.73 g, 99% yield | BrC1=NC(=CC=C1OC)N | C6H7BrN2O
